US09421177B2
(R)-tert-butyl 2-cyanopyrrolidine-1-carboxylate (41)
To a solution of 2 grams (9.3 mmols) of N-Boc-D-Proline in 19 mL of dichloromethane was added 4.2 grams (42 mmols) of triethylamine. The reaction mixture was cooled to −25° C. and 2.5 grams (18.6 mmols) of iso-butylchloroformate was added dropwise. After stirring at this low temperature for 45 minutes, 0.83 grams (49 mmols) of ammonia was added to the mixture as a 7M solution in methanol. The reaction vessel was warmed slowly to ambient temperature and the solution was stirred for an additional 16 hours. After this time, the reaction mixture was evaporated to dryness and reconstituted in 200 mL of EtOAc. The organic layer was washed with four 15 mL portions of 1N HCl, dried with MgSO4 and evaporated to dryness. The crude material was immediately subjected to general procedure E using 2 grams (18.9 mmols) of triethylamine and 2.3 grams (11.16 mmols) of trifluoroacetic anhydride in 93 mL of THF. After previously described purification procedures (column chromatography, 25% EtOAc in hexanes), 0.8 grams (4.1 mmols, 44%) of the title product was recovered. 1H and 13C NMR data were identical to that reported for 28.

reactant | N-Boc-D-Proline | 9.3 mmols, 2 grams | C(=O)(OC(C)(C)C)N1[C@@H](C(=O)O)CCC1 | C10H17NO4
reactant | triethylamine | 42 mmols, 4.2 grams | C(C)N(CC)CC | C6H15N
reactant | iso-butylchloroformate | 18.6 mmols, 2.5 grams | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | ammonia | 49 mmols, 0.83 grams | N | H3N
reactant | triethylamine | 18.9 mmols, 2 grams | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 11.16 mmols, 2.3 grams | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 19 mL | ClCCl | CH2Cl2
solvent | methanol | CO | CH4O
solvent | THF | 93 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (R)-tert-butyl 2-cyanopyrrolidine-1-carboxylate | 4.1 mmols, 0.8 grams, 44% | C(#N)[C@@H]1N(CCC1)C(=O)OC(C)(C)C | C10H16N2O2
